US07115611B2
A] 2-(3-Cyano-phenoxy)-2-methyl-propionic acid ethyl ester
5.0 g (42.0 mmol) of 3-hydroxybenzonitrile and 16.25 ml=21.29 g (109 mmol) of ethyl-bromoisobutyrate were dissolved in 70 ml acetonitrile; then, 17.40 g (126 mmol) of potassium carbonate were added and the reaction mixture stirred for 16 hours at 80° C. (reflux). It was then cooled down to ambient temperature and the solvent was evaporated. The residue was partitioned between water and ether and extracted twice with ether; the organic phases were washed with water, dried (MgSO4) and evaporated. The crude product was purified by flash chromatography (SiO2, heptane/AcOEt) to finally give 9.10 g of the title compound as colorless oil.

reactant | 3-hydroxybenzonitrile | 42.0 mmol, 5.0 g | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | ethyl-bromoisobutyrate | 109 mmol, 21.29 g | C(C)CC(C(=O)[O-])(C)Br
reactant | potassium carbonate | 126 mmol, 17.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 2-(3-Cyano-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=CC=C1)C#N)=O | C13H15NO3
